US06608078B2
Sodium borohydride (0.456 g, 12.0 mmole) was added to the stirred solution of 1-benzyl-3-ethyl piperidin-4-one (5.4 g, 24.0 mmole) in methanol (25 ml) at 0-5° C. over a period of 15 min, and stirring was continued for 30 min at ambient temperature. The reaction mixture was concentrated to dryness, triturated with water (25 ml) and extracted with ethyl acetate (2×100 ml). The extract was dried (sodium sulphate) and concentrated to dryness to furnish 1-benzyl-3-ethyl-4-hydroxypiperidine product as oil, which was used as such in the next step. Yield 5.2 g (96%), C14H21NO, m/z 220 (M+1).

reactant | Sodium borohydride | 12.0 mmole, 0.456 g | [BH4-].[Na+]
reactant | 1-benzyl-3-ethyl piperidin-4-one | 24.0 mmole, 5.4 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)CC | C14H19NO
solvent | methanol | 25 ml | CO | CH4O
product | 1-benzyl-3-ethyl-4-hydroxypiperidine | C(C1=CC=CC=C1)N1CC(C(CC1)O)CC | C14H21NO
